US03947470
5-Chloro-3-[2-(2-diethylaminoethoxy)benzoyl]-2-phenylbenzofuran
Acylation of 5 -chloro-2-phenylbenzofuran with 2-(2-diethylaminoethoxy)benzoyl chloride hydrochloride by the procedure described in Example 6 gives the title compound.

reactant | 5 -chloro-2-phenylbenzofuran | ClC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1 | C14H9ClO
reactant | 2-(2-diethylaminoethoxy)benzoyl chloride hydrochloride | Cl.C(C)N(CCOC1=C(C(=O)Cl)C=CC=C1)CC
product | 5-Chloro-3-[2-(2-diethylaminoethoxy)benzoyl]-2-phenylbenzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)C(C2=C(C=CC=C2)OCCN(CC)CC)=O)C1 | C27H26ClNO3
